### PR TITLE
Solve exercise 3.15 and 3.17

### PR DESCRIPTION
**Pull request by HyunggyuJang**

### CODE REVIEW

File: contrib/HoTTBookExercises.v [hunk 1]
```diff
@@ -939,7 +939,23 @@ End Book_3_14.
...
+    specialize (trA B').
+    apply trA.
+    assumption.
+  Defined.
+  Lemma Book_3_15_eq {A B} `{IsHProp B} (f : A -> B)
+    : forall a, f a = Book_3_15_rec f (fun _ f' => f' a).
+  Proof.
+    intro a. reflexivity.
+  Qed.
+  (* proportional resizing is needed? *)
```
Comment (jdchristensen) [inline contrib/HoTTBookExercises.v:957]: Propositional resizing is needed to show that `forall P : HProp, (A -> P) -> P` lies in the same universe as `A`.  It might be good enough to just add this remark as a comment.  Alternatively, you could start with `Definition Book_3_15_trunc@{u} (A : Type@{u}) : Type@{u}` and define it to be `forall P : HProp@{u}, (A -> P) -> P`.  Then you'll need to also assume propositional resizing in order to make this work.  Not sure if anyone else has a preference between the two options.

File: contrib/HoTTBookExercises.v [hunk 2]
```diff
@@ -949,7 +965,21 @@ End Book_3_14.
 (* ================================================== ex:prop-trunc-ind *)
 (** Exercise 3.17 *)
 
-
+Section Book_3_17.
+  Theorem prop_trunc_ind
+  : forall A (B : merely A -> Type),
+    (forall a, B (tr a))
+    -> (forall x, IsHProp (B x))
```
Comment (jdchristensen) [inline contrib/HoTTBookExercises.v:972]: I would reverse these two hypotheses.

File: contrib/HoTTBookExercises.v [hunk 3]
```diff
@@ -949,7 +965,21 @@ End Book_3_14.
...
+    -> forall x, B x.
+  Proof.
+    intros A B base p x.
+    specialize (p x).
```
Comment (jdchristensen) [inline contrib/HoTTBookExercises.v:976]: You can remove this line.

Comment (HyunggyuJang) [reply contrib/HoTTBookExercises.v:976]: Gotcha. Thanks for comment; will reflect it.

File: contrib/HoTTBookExercises.v (hunk 1 above)
Comment (HyunggyuJang) [reply contrib/HoTTBookExercises.v]: Thanks for thorough comment. As you suggested, I added remark for the propositional resizing. Learned a lot.

File: contrib/HoTTBookExercises.v (hunk 2 above)
Comment (HyunggyuJang) [reply contrib/HoTTBookExercises.v]: Reflected.

File: contrib/HoTTBookExercises.v [hunk 4]
```diff
@@ -940,6 +940,7 @@ End Book_3_14.
 (** Exercise 3.15 *)
 
 Section Book_3_15.
+  (* Propositional resizing is (implicitly) used for [forall P : HProp, (A -> P) -> P] to be on the same universe as [A] *)
```
Comment (jdchristensen) [inline contrib/HoTTBookExercises.v:943]: "on" should be "in", and the comment should end in a period.

@mikeshulman Do you think this comment is sufficient, or should the exercise explicitly use universes and propositional resizing?

File: contrib/HoTTBookExercises.v [hunk 5]
```diff
@@ -939,7 +939,23 @@ End Book_3_14.
...
+  Definition Book_3_15_rec {A B} `{IsHProp B}
+    : (A -> B) -> (forall P : HProp, (A -> P) -> P) -> B.
+  Proof.
+    intros f trA.
+    set (B' := Build_HProp B).
+    specialize (trA B').
+    apply trA.
+    assumption.
+  Defined.
+  Lemma Book_3_15_eq {A B} `{IsHProp B} (f : A -> B)
```
Comment (jdchristensen) [inline contrib/HoTTBookExercises.v:953]: Could you insert a blank line before the Lemma?

File: contrib/HoTTBookExercises.v [hunk 6]
```diff
@@ -949,7 +965,20 @@ End Book_3_14.
 (* ================================================== ex:prop-trunc-ind *)
 (** Exercise 3.17 *)
 
-
+Section Book_3_17.
+  Theorem prop_trunc_ind
+  : forall A (B : merely A -> Type),
+    (forall x, IsHProp (B x))
+    -> (forall a, B (tr a))
```
Comment (jdchristensen) [inline contrib/HoTTBookExercises.v:972]: It doesn't matter than much since this is an exercise, but our typical style would have `A`, `B` and `p` (at least) before the `:`.  And we would use `{forall x, IsHProp (B x)}, so it doesn't need to be named and can be left implicit.  I'm only mentioning it so that our exercises can model the style used in the rest of the library.

File: contrib/HoTTBookExercises.v (hunk 4 above)
Comment (HyunggyuJang) [reply contrib/HoTTBookExercises.v:943]: Got it; for now let me fix the preposition.

File: contrib/HoTTBookExercises.v (hunk 5 above)
Comment (HyunggyuJang) [reply contrib/HoTTBookExercises.v:954]: Added.

File: contrib/HoTTBookExercises.v (hunk 4 above)
Comment (mikeshulman) [reply contrib/HoTTBookExercises.v]: I think it would be _better_ to use universes and propresizing explicitly.  But we could merge this now and potentially make that improvement later.

Comment (jdchristensen) [reply contrib/HoTTBookExercises.v]: In case @HyunggyuJang isn't familiar with using propositional resizing, here is one way to start the solution:
```
  Definition Book_3_15_trunc@{u +} `{PropResizing} `{Funext} (A : Type@{u})
    : Type@{u}.
  Proof.
    exact (resize_hprop@{_ u} (forall P : HProp@{u}, (A -> P) -> P)).
  Defined.

  Definition Book_3_15_ishprop `{PropResizing} `{Funext} (A : Type)
    : IsHProp (Book_3_15_trunc A)
    := _.
```
Also note that the existing solution didn't actually state that the type is a proposition, so I added that as well.  The rest will be essentially the same, but all results will need both propositional resizing and Funext.

Comment (HyunggyuJang) [reply contrib/HoTTBookExercises.v]: Thanks a lot for your detailed instruction, @jdchristensen. Yes, I'm not that familiar with propositional resizing, so let me just apply your instruction ASAP; besides that, I learned a lot from your comments, much appreciated, @jdchristensen!

Comment (HyunggyuJang) [reply contrib/HoTTBookExercises.v]: Reflected at https://github.com/HoTT/Coq-HoTT/pull/1678/commits/2b657ab9678f27728304ac340b9f1fa6ba4f0ec7
Note that, in Coq, we cannot express judgemental equality unlike the note in the text; I added a remark for it. @jdchristensen @mikeshulman Can you check it whether it is appropriate?

**Comment by mikeshulman** [comment]
(Moving the discussion out of the inline comments on an out-of-date line.)

With apologies to Dan who made this suggestion, I don't think this is quite what the exercise means.  It doesn't say to prove that a resized version of `forall (P:Prop), (A -> P) -> P` has the recursion principle, but that `forall (P:Prop), (A -> P) -> P` _itself_ has that principle.  Propositional resizing should be used instead on the proposition you're eliminating _into_, to move it down into the right universe.  (The current version doesn't, I think, prove that the recursion principle can map into a proposition in an arbitrary universe, but probably collapses the universes of `A` and `B` to be the same.)

However, I do also think you've found a mistake in the book.  Even doing it the way I suggest, I think you're only going to get a typal computation rule, for essentially the same reason.  And the book's propositional resizing is no stricter than the one in Coq, so it should also only have a typal computation rule.

**Comment by HyunggyuJang** [comment]
> (Moving the discussion out of the inline comments on an out-of-date line.)
> 
> With apologies to Dan who made this suggestion, I don't think this is quite what the exercise means. It doesn't say to prove that a resized version of `forall (P:Prop), (A -> P) -> P` has the recursion principle, but that `forall (P:Prop), (A -> P) -> P` _itself_ has that principle. Propositional resizing should be used instead on the proposition you're eliminating _into_, to move it down into the right universe. (The current version doesn't, I think, prove that the recursion principle can map into a proposition in an arbitrary universe, but probably collapses the universes of `A` and `B` to be the same.)
> 
> However, I do also think you've found a mistake in the book. Even doing it the way I suggest, I think you're only going to get a typal computation rule, for essentially the same reason. And the book's propositional resizing is no stricter than the one in Coq, so it should also only have a typal computation rule.

Thanks for your detailed remark. I’ll try to reflect your point. So basically, should encode the truncation as forall (P:Prop), (A -> P) -> P, then use propositional resizing to adjust P to be in the proper universe. Got it.

**Comment by jdchristensen** [comment]
Oh, sorry for the misunderstanding.  I had assumed that the idea was to show that for any universe, you get a modality on that universe.  Now I see what was meant.  Hopefully my example of using PropResizing is still helpful.

File: contrib/HoTTBookExercises.v (hunk 4 above)
Comment (Alizter) [reply contrib/HoTTBookExercises.v]: One way to express "judgemental equality" is to set two terms as equal by a path and explicitly set the proof to `idpath`.

Comment (HyunggyuJang) [reply contrib/HoTTBookExercises.v]: @Alizter Thanks for your remark. Indeed I expressed judgemental equality with reflexivity tactic at https://github.com/HoTT/Coq-HoTT/pull/1678/files/da9b3099387a692ba7bd1c44620b869e01b5be2a..09102873e3e89f34087adaa752958132b97307b3#diff-ff4b6a1211719941834f9aec6bc57ef7b3203e603479e0ad60353086b6b0fe25R956
Think what you said and the way I expressed it are basically the same.

**Comment by jdchristensen** [comment]
@HyunggyuJang This was a tricky task and I'm not exactly sure what the current state is, but are you interested in reviving this PR?  I'm happy to help.
